US06063789
3-(2-Azidoethyl)benzaldehyde
n-Butyllithium (1.50M in hexane, 10.8 mmol, 7.23 ml) was added dropwise at -78° C. to a solution of 1-azido-2-(3-bromophenyl)ethane [Example H(c )] (2.45 g, 10.8 mmol) in THF (80 ml). The bright yellow solution was stirred for 20 min., N-formylmorpholine (2.4 ml) in THF (10 ml) was added dropwise, the solution stirred for a further 30 min. and then warmed room temperature over 1 h. The solution was diluted with diethyl ether, washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over sodium sulphate and evaporated. The residue was purified by flash chromatography, eluting with 10% diethyl ether/hexane, to furnish the product as a pale yellow oil (750 mg). [M-N2 ]+ 146; 360 MHz 1H n.m.r (CDCl3) 10.02 (1H, s), 7.79-7.76 (2H, m), 7.52-7.50 (2H, m), 3.57 (2H, t, J 7.0 Hz), 2.98 (2H, t, J 7.0 Hz).

reactant | n-Butyllithium | 10.8 mmol, 1.50M, 7.23 ml | C(CCC)[Li]
reactant | 1-azido-2-(3-bromophenyl)ethane | N(=[N+]=[N-])CCC1=CC(=CC=C1)Br | C8H8BrN3
reactant | N-formylmorpholine | 2.4 ml | C(=O)N1CCOCC1 | C5H9NO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(2-Azidoethyl)benzaldehyde | 750 mg | N(=[N+]=[N-])CCC=1C=C(C=O)C=CC1 | C9H9N3O
